US07531545B2
To a solution of 4-tert-butoxycarbonylamino-4-cyclohexyl-butyric acid methyl ester (9 g) in MeOH (100 mL) was added 1N NaOH (31 mL) and the reaction mixture was stirred at room temperature overnight. Citric acid (7 g) was then added, and the MeOH was removed under vacuum. The product was extracted with EtOAc (300 mL). The organic layer was washed with aqueous NaCl solution, dried with MgSO4, and evaporated to yield 4-tert-butoxycarbonylamino-4-cyclohexyl-butyric acid as an off white solid.

reactant | 4-tert-butoxycarbonylamino-4-cyclohexyl-butyric acid methyl ester | 9 g | COC(CCC(C1CCCCC1)NC(=O)OC(C)(C)C)=O | C16H29NO4
reactant | NaOH | 1N, 31 mL | [OH-].[Na+]
reactant | Citric acid | 7 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 100 mL | CO | CH4O
product | 4-tert-butoxycarbonylamino-4-cyclohexyl-butyric acid | C(C)(C)(C)OC(=O)NC(CCC(=O)O)C1CCCCC1 | C15H27NO4
